US05459131
3-Acetyl-N,N-diethylbenzenesulfonamide
A solution of 40.4 g (0.20 mol) of 3-acetylbenzenesulfonyl fluoride, 32.2 g (0.44 mol) of diethylamine in 200 ml of dry tetrahydrofuran is stirred overnight at 23° C. and then refluxed for two days. Diethylamine (10 ml) is added and the solution refluxed for 24 hours and the solvent removed. The residue is dissolved in CH2Cl2 and the solution washed with 1NHCl and H2O. The CH2Cl2 layer is dried (MgSO4) and the solvent removed to give 45 g (88%) of thick oil. A sample is chromatographed (silica gel column) with CH2Cl2 to give a viscous oil.

reactant | 3-acetylbenzenesulfonyl fluoride | 0.20 mol, 40.4 g | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)F | C8H7FO3S
reactant | diethylamine | 0.44 mol, 32.2 g | C(C)NCC | C4H11N
reactant | Diethylamine | 10 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-Acetyl-N,N-diethylbenzenesulfonamide | 45 g, 88% | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)N(CC)CC | C12H17NO3S
